US09193697B2
Step C5.1-1: 2-[(4-Chlorophenyl)sulfanyl]-1-[4-(methylsulfanyl)phenyl]ethanone
To a stirring mixture of sodium ethoxide (13.32 g, 196 mmol) in ethanol (IL) in a 2 L RBF was added 4-chlorothiophenol (26.0 g, 179 mmol), followed by 2-bromo-1-[4-(methylsulfanyl)phenyl]ethanone (40 g, 163 mmol). The reaction mixture was heated to reflux until all solid dissolved, hot filtered through a fritted funnel, then allowed to cool slowly to room temperature, then to 0° C. in an ice bath. The title compound was isolated as pink needle-like crystals (43.9 g, 87%) by filtration. LCMS M+1=309.2.

reactant | sodium ethoxide | 196 mmol, 13.32 g | [O-]CC.[Na+]
reactant | 4-chlorothiophenol | 179 mmol, 26.0 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | 2-bromo-1-[4-(methylsulfanyl)phenyl]ethanone | 163 mmol, 40 g | BrCC(=O)C1=CC=C(C=C1)SC | C9H9BrOS
solvent | ethanol | C(C)O | C2H6O
product | 2-[(4-Chlorophenyl)sulfanyl]-1-[4-(methylsulfanyl)phenyl]ethanone | ClC1=CC=C(C=C1)SCC(=O)C1=CC=C(C=C1)SC | C15H13ClOS2
